US03966820
0.48 G. of a 50% mineral oil dispersion of sodium hydride is added to a solution of 2.64 g. of 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propan-1-ol in 30 ml. of dimethylformamide. The mixture is warmed to 40°C and stirred until hydrogen evolution ceases. 3.0 G of ethyl iodide is added and the mixture heated to 60°C for 3 hrs. Water and ether are added and the ethereal solution is washed with water, dried and evaporated to yield 1-ethoxy-2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propane.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propan-1-ol | O=C1C2=C(C=CC3=C1C=CC(=C3)C(CO)C)C=CC=C2 | C18H16O2
reactant | hydrogen | [H][H] | H2
reactant | ethyl iodide | C(C)I | C2H5I
solvent | ether | CCOCC | C4H10O
solvent | Water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-ethoxy-2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propane | C(C)OCC(C)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C20H20O2
